US07205302B2
4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]-1-butanol
30 g of 2-chloro-5,6-diphenylpyrazine and 131.22 g of 4-(isopropylamino)-1-butanol were mixed and then heated with stirring at 190° C. for 10 hours. The reaction solution was air-cooled, poured into water, extracted with diethyl ether, dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography to obtain 22.96 g of the desired compound as a colorless crystal having a melting point of 102 to 103° C.

reactant | 2-chloro-5,6-diphenylpyrazine | 30 g | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | 4-(isopropylamino)-1-butanol | 131.22 g | C(C)(C)NCCCCO | C7H17NO
solvent | water | O | H2O
product | 4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]-1-butanol | 22.96 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C(C)C)CCCCO | C23H27N3O
